US07678796B2
Acetic acid 2,2,2-trichloro-1-(2,5-difluoro-phenyl)-ethyl ester
2,5-Difluoro-benzaldehyde (10 g, 70 mmol) was dissolved in DMF (150 mL) and trichloroacetic acid (20.2 g, 123 mmol) was added. Addition of the sodium trichloroacetate (22.5 g, 121 mmol) was initiated at 21° C. All sodium trichloroacetate was added in portions within 30 min, the temperature was kept at 23-27° C. throughout the whole reaction. One hour later the aldehyde was consumed. The reaction mixture was stirred over night at room temperature. The mixture was cooled to 2° C. and acetic anhydride (20 mL, 211 mmol) was added dropwise within 1 h. During the addition the mixture became very thick and more DMF (400 mL) was added. After addition the mixture was warmed to room temperature during 1 h. Water was added to give a solution that was extracted three times with diethyl ether. The combined organic phase washed five times with water, dried (MgSO4), filtered and evaporated to give the title compound as an yellow oil. Yield 84%, 18.2 g.

reactant | 2,5-Difluoro-benzaldehyde | 70 mmol, 10 g | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | trichloroacetic acid | 123 mmol, 20.2 g | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | sodium trichloroacetate | 121 mmol, 22.5 g | ClC(C(=O)[O-])(Cl)Cl.[Na+]
reactant | acetic anhydride | 211 mmol, 20 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | Acetic acid 2,2,2-trichloro-1-(2,5-difluoro-phenyl)-ethyl ester | Yield 84% | ClC(C(C1=C(C=CC(=C1)F)F)OC(C)=O)(Cl)Cl | C10H7Cl3F2O2
